US06455528B1
(3) N-(4-Bromomethyl-3-nitrophenylmethyl)acetamide
To a solution of 4-bromomethyl-3-nitrobenzonitrile (25.7 g) in tetrahydrofuran (250 ml) was added a 2.0 M tetrahydrofuran solution (59 ml) of a borane-methylsulfide complex and the mixture was refluxed under heating for 4.5 hr. To the reaction mixture was added hydrochloric acid-methanol and the mixture was refluxed under heating for 1.5 hr. The solvent was evaporated under reduced pressure to give a brown oil. The obtained brown oil was crystallized from ethyl acetate to give yellow white crystals. To a mixed solution of the obtained yellow white crystals, acetic anhydride (12.1 ml), water (50 ml) and ethyl acetate (100 ml) was added an aqueous solution (50 ml) of sodium hydroxide (12.8 g) under ice-cooling. This reaction mixture was stirred at room temperature for 2.5 hr and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent; chloroform:methanol=20:1) to give the title compound (21.4 g) as a brown oil.

reactant | 4-bromomethyl-3-nitrobenzonitrile | 25.7 g | BrCC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H5BrN2O2
reactant | hydrochloric acid methanol | Cl.CO
reactant | acetic anhydride | 12.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 50 ml, 12.8 g | [OH-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 M, 59 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-(4-Bromomethyl-3-nitrophenylmethyl)acetamide | 21.4 g | BrCC1=C(C=C(C=C1)CNC(C)=O)[N+](=O)[O-] | C10H11BrN2O3
